US08048902B2
Step 1: [4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester
Ethyl 4-bromophenylacetate (12 g, 49 mmol), bis(pinacolato)diboron (12.4 g, 59 mmol), 1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (2 g, 2.4 mmol), and potassium acetate (9.6 g, 98 mmol) were combined in 1,4-dioxane (100 mL), and the reaction was heated to 80° C. for 6 hours. The mixture was worked-up to give the title compound.

reactant | Ethyl 4-bromophenylacetate | 49 mmol, 12 g | BrC1=CC=C(C=C1)CC(=O)OCC | C10H11BrO2
reactant | bis(pinacolato)diboron | 59 mmol, 12.4 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 98 mmol, 9.6 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 2.4 mmol, 2 g | Cl[Pd]Cl
product | [4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO4
